US09238647B2
Step D: 4-(4-Fluorophenyl)-2-(2-hydroxy-2-methylpropyl)-1-methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazole-5-yl)ethyl]-1H-benzimidazole-6-carboxamide
To a mixture of methyl 4-(4-fluorophenyl)-2-(2-hydroxy-2-methylpropyl)-1-methyl-1H-benzimidazole-6-carboxylic acid (122 mg, 0.236 mmol), (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine hydrochloride (46.3 mg, 0.283 mmol), 1-hydroxy-7-azabenzotriazol (3.21 mg, 0.024 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (79 mg, 0.412 mmol) was added DMF (0.471 mL) followed by triethylamine (0.099 mL, 0.707 mmol). Reaction heated at 50° C. for 30 min. Reaction cooled and filtered. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% TFA) gave the title compound (87.4 mg): LC-MS [M+1]=452.4; 1H NMR (500 MHz, CHCl3-d): δ 7.94 (2H, m), 7.90 (1H, s), 7.77 (1H, s), 7.20 (1H, d, J=7.73 Hz), 7.15 (2H, t, J=8.51 Hz), 5.66-5.59 (1H, m), 5.47 (1H, s), 3.78 (3H, s), 3.02 (2H, s), 2.39 (3H, s), 1.74 (5H, d, J=7.14 Hz), 1.35 (6H, s).

reactant | methyl 4-(4-fluorophenyl)-2-(2-hydroxy-2-methylpropyl)-1-methyl-1H-benzimidazole-6-carboxylic acid | 0.236 mmol, 122 mg | CC1=C(C2=C(N(C(=N2)CC(C)(C)O)C)C=C1C(=O)O)C1=CC=C(C=C1)F | C20H21FN2O3
reactant | (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine hydrochloride | 0.283 mmol, 46.3 mg | Cl.CC1=NOC(=N1)[C@@H](C)N
reactant | 1-hydroxy-7-azabenzotriazol | 0.024 mmol, 3.21 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.412 mmol, 79 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.707 mmol, 0.099 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.471 mL | CN(C)C=O | C3H7NO
product | 4-(4-Fluorophenyl)-2-(2-hydroxy-2-methylpropyl)-1-methyl-N-[(1R)-1-(3-methyl-1,2,4-oxadiazole-5-yl)ethyl]-1H-benzimidazole-6-carboxamide | 87.4 mg | FC1=CC=C(C=C1)C1=CC(=CC=2N(C(=NC21)CC(C)(C)O)C)C(=O)N[C@H](C)C2=NC(=NO2)C | C24H26FN5O3
